US07368461B2
1b. (S)-[2-(3,4-Dichloro-phenyl)-4-oxo-butyl]-methyl-carbamic acid tert-butyl ester
To a solution of oxalyl chloride (2.84 mL) in dichloromethane (70 mL) at −78° C. was added dimethylsulfoxide (4.6 mL) in dichloromethane (35 mL). This mixture was stirred for about 7 minutes at −78° C. before (S)-[2-(3,4-dichloro-phenyl)-4-hydroxy-butyl]-methyl-carbamic acid tert-butyl ester (9.1 g) was added as a solution in dichloromethane (25 mL). This mixture was stirred at −78° C. for 30 minutes before triethylamine (18.1 mL) was added neat. The mixture was then stirred for 30 minutes at −78° C., 45 minutes at 0° C., then warmed to ambient temperature. The solution was diluted with dichloromethane, washed with dilute hydrochloric acid, aqueous sodium bicarbonate, dried and evaporated. MS: m/z=346(M+1). The product was used with no further purification.

reactant | oxalyl chloride | 2.84 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 4.6 mL | CS(=O)C | C2H6OS
reactant | (S)-[2-(3,4-dichloro-phenyl)-4-hydroxy-butyl]-methyl-carbamic acid tert-butyl ester | 9.1 g | C(C)(C)(C)OC(N(C)C[C@@H](CCO)C1=CC(=C(C=C1)Cl)Cl)=O | C16H23Cl2NO3
reactant | triethylamine | 18.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (S)-[2-(3,4-Dichloro-phenyl)-4-oxo-butyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C[C@@H](CC=O)C1=CC(=C(C=C1)Cl)Cl)=O | C16H21Cl2NO3
